US07601772B2
The synthesis of 1-methyl-3-octyl imidazolium chloride (C8-mim)
The procedure of Example 1 was repeated with minor changes. 654 g of 1-chlorooctane and 360 g of 1-methylimidazole were added into a 2000 ml three-neck round-bottom flask. The reaction temperature was set from 75 to 80° C. After four hours, the milk-like solution transferred into homogenous solution. After two days, 60 g of 1-chlorooctane was added into the reactor. The reaction was continued for three days. Then, the product was washed with ethyl acetate five times and toluene three times. After that, it was dried in vacuum for three days.

reactant | 1-chlorooctane | 654 g | ClCCCCCCCC | C8H17Cl
reactant | 1-methylimidazole | 360 g | CN1C=NC=C1 | C4H6N2
reactant | 1-chlorooctane | 60 g | ClCCCCCCCC | C8H17Cl
product | 1-methyl-3-octyl imidazolium chloride | [Cl-].C[N+]1=CN(C=C1)CCCCCCCC | InChI=1S/C12H23N2.ClH/c1-3-4-5-6-7-8-9-14-11-10-13(2)12-14;/h10-12H,3-9H2,1-2H3;1H/q+1;/p-1
